US04512999
A solution of 3.3 g of methylene-6,7-dioxo-3,3-dimethyl-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylate pivalate in 100 ml of benzene is treated at room temperature with 6 g of phenylsulphonylacetylmethylenetriphenylphosphorane. After 10 minutes, the reaction mixture is evaporated. The residue is chromatographed on silica gel while eluting with cyclohexane/ethyl acetate (6:4). There is obtained methylene-(2S,5R)-3,3-dimethyl-7-oxo-6-[3-(phenylsulphonyl)-2-oxopropylidene]-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylate pivalate as yellow crystals of melting point 100°-102° [Rf: 0.25; cyclohexane/ethyl acetate (6:4)].

reactant | methylene-6,7-dioxo-3,3-dimethyl-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylate pivalate | 3.3 g | C(C(C)(C)C)(=O)O.C=S1C(C(N2C(C(C12)=O)=O)C(=O)O)(C)C
reactant | phenylsulphonylacetylmethylenetriphenylphosphorane | 6 g | C1(=CC=CC=C1)S(=O)(=O)CC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H23O3PS
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | methylene-(2S,5R)-3,3-dimethyl-7-oxo-6-[3-(phenylsulphonyl)-2-oxopropylidene]-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylate pivalate | C(C(C)(C)C)(=O)O.C=S1C([C@@H](N2C(C([C@@H]12)=CC(CS(=O)(=O)C1=CC=CC=C1)=O)=O)C(=O)O)(C)C | InChI=1S/C18H19NO6S2.C5H10O2/c1-18(2)14(17(22)23)19-15(21)13(16(19)26(18)3)9-11(20)10-27(24,25)12-7-5-4-6-8-12;1-5(2,3)4(6)7/h4-9,14,16H,3,10H2,1-2H3,(H,22,23);1-3H3,(H,6,7)/t14-,16+,26?;/m0./s1
